US05686455
2-(4-Aminomethylphenyl)-1-methyl-4-phenyl-5-(4-pyridyl)-imidazole
To a solution of 2-(4-cyanophenyl)-1-methyl-4-phenyl-5-(4-pyridyl)imidazole (0.20 g, 0.6 mmol) [See Ex. 3 above] in THF (10 mL) was added LiAlH4 (0.60 mL of 1.0M solution in THF, 0.6 mmol), and the resulting mixture was stirred at rt for 1 h. The mixture was then poured into 2.5N NaOH and extracted with Et2O. The organic extract was evaporated, and the residue was purified by flash chromotography, eluting first with a solvent gradient of 0-10% MeOH/CHCl3, followed by 1:10:90 NH4 OH/MeOH/CHCl3. Trituration with ether afforded the title compound as a white solid (66 mg, 32%): CIMS (NIH3, m/z): 341 (M+ +H).

reactant | 2-(4-cyanophenyl)-1-methyl-4-phenyl-5-(4-pyridyl)imidazole | 0.6 mmol, 0.20 g | C(#N)C1=CC=C(C=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=NC=C1)C | C22H16N4
reactant | LiAlH4 | 0.6 mmol, 1.0M, 0.60 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 2.5N | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-Aminomethylphenyl)-1-methyl-4-phenyl-5-(4-pyridyl)-imidazole | 66 mg, 32% | NCC1=CC=C(C=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=NC=C1)C | C22H20N4
